US08071584B2
3-(1,1-Dioxidotetrahydro-2H-thiopyran-4-yl)-4-fluoro-5-(3-thienyl)-1H-indole-7-carboxamide
A mixture of 5-bromo-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-4-fluoro-1H-indole-7-carboxamide (15 mg, 0.039 mmol), 3-thiopheneboronic acid (9.86 mg, 0.077 mmol), and K2CO3 (15.98 mg, 0.116 mmol) was taken up in 1,4-dioxane (0.2 mL) and water (0.100 mL). The mixture was degassed with argon for 10 min, and PdCl2(dppf) (2.82 mg, 3.85 μmol) was added. The vial was sealed, and the reaction was heated in a Biotage microwave for 30 min at 130° C. on high absorption. The aqueous layer was removed via pipette, and the reaction mixture was filtered through a Stratosphere PL-Thio MP SPE cartridge (0.5 g), eluting with 1:1 DCM/MeOH (10 mL). The eluent was concentrated under a stream of nitrogen at 50° C., and the crude product was dissolved in DMSO (1.2 mL) and purified on a Gilson HPLC (XBridge C18 5 mm OBD 19×100 mm preparatory column), eluting at 15 mL/min with a linear gradient running from 20% CH3CN/H2O (0.1% NH4OH) to 70% CH3CN/H2O (0.1% NH4OH) over 18 min. The desired fractions were concentrated under a stream of nitrogen at 50° C. and dried under high vacuum, giving 9.2 mg (61%) of the title compound.

reactant | 5-bromo-3-(1,1-dioxidotetrahydro-2H-thiopyran-4-yl)-4-fluoro-1H-indole-7-carboxamide | 0.039 mmol, 15 mg | BrC=1C(=C2C(=CNC2=C(C1)C(=O)N)C1CCS(CC1)(=O)=O)F | C14H14BrFN2O3S
reactant | 3-thiopheneboronic acid | 0.077 mmol, 9.86 mg | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | K2CO3 | 0.116 mmol, 15.98 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 0.2 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.100 mL | O | H2O
catalyst | PdCl2(dppf) | 3.85 μmol, 2.82 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-(1,1-Dioxidotetrahydro-2H-thiopyran-4-yl)-4-fluoro-5-(3-thienyl)-1H-indole-7-carboxamide | 9.2 mg, 61% | O=S1(CCC(CC1)C1=CNC2=C(C=C(C(=C12)F)C1=CSC=C1)C(=O)N)=O | C18H17FN2O3S2
